US08809525B2
6-(Morpholin-4-yl)-5-phenyl-1,2,4-triazin-3-amine (50 mg, 20%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.21 g, 0.80 mmol) and morpholine (0.126 g, 1.44 mmol) according to the general procedure of Example 2.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.80 mmol, 0.21 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | morpholine | 1.44 mmol, 0.126 g | N1CCOCC1 | C4H9NO
product | 6-(Morpholin-4-yl)-5-phenyl-1,2,4-triazin-3-amine | 50 mg, 20% | N1(CCOCC1)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C13H15N5O
